US04578381
1.8 Grams of 2-(4-methoxybenzoyl)amino-3-(2-quinolon-3yl)propionic acid was dissolved in 100 ml of ethanol, then to this solution was introduced and saturated with hydrogen chloride gas under an ice-cooled condition with stirring. The reaction mixture was then refluxed for 5 hours and after completion of the reaction, the solvent was removed by distillation under a reduced pressure, the residue obtained was recrystallized from ethyl acetate-ethanol to obtain 1.5 g of ethyl 2-(4-methoxybenzoyl)amino-3-(2-quinolon-3-yl)propionate in the form of white powder product.

reactant | 2-(4-methoxybenzoyl)amino-3-(2-quinolon-3yl)propionic acid | COC1=CC=C(C(=O)NC(C(=O)O)CC=2C(NC3=CC=CC=C3C2)=O)C=C1 | C20H18N2O5
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-(4-methoxybenzoyl)amino-3-(2-quinolon-3-yl)propionate | 1.5 g | COC1=CC=C(C(=O)NC(C(=O)OCC)CC=2C(NC3=CC=CC=C3C2)=O)C=C1 | C22H22N2O5
